US09290490B2
To a solution of N-{trans-4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]cyclohexyl}methanesulfonamide (178 mg, 0.59 mmol) in DMF (4.0 mL) was added N-bromosuccinimide (104 mg, 0.585 mmol) and the reaction was heated at 50° C. for one hour. The reaction was then cooled to room temperature and another portion of N-bromosuccinimide (52 mg, 0.292 mmol) was added. The reaction was then heated at 50° C. for one hour. The solution was then cooled to room temperature and diluted with water and ethyl acetate. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel to afford N-{trans-4-[1-(5-bromo-1,3-thiazol-2-yl)-1-hydroxyethyl]cyclohexyl}methanesulfonamide. MS ESI calc'd. for C12H20N2O3S2 [M+H]+ 383, 385. found 383, 385. 1H NMR (500 MHz, DMSO-d6) δ 7.73 (s, 1H), 6.91 (d, J=7.4, 1H), 5.95 (s, 1H), 2.99-2.87 (m, 1H), 2.54 (s, 3H), 1.94-1.72 (m, 4H), 1.52 (t, J=11.9, 1H), 1.47-1.39 (m, 4H), 1.30-0.92 (m, 3H).

reactant | N-{trans-4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]cyclohexyl}methanesulfonamide | 0.59 mmol, 178 mg | OC(C)(C=1SC=CN1)[C@@H]1CC[C@H](CC1)NS(=O)(=O)C | C12H20N2O3S2
reactant | N-bromosuccinimide | 0.585 mmol, 104 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 0.292 mmol, 52 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{trans-4-[1-(5-bromo-1,3-thiazol-2-yl)-1-hydroxyethyl]cyclohexyl}methanesulfonamide | BrC1=CN=C(S1)C(C)(O)[C@@H]1CC[C@H](CC1)NS(=O)(=O)C | C12H19BrN2O3S2
